US04505905
Methyl 3-(1-Propylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylate (23)
To a solution of 33 mg of crude methyl 3-(1-propylthio)-7-oxobicyclo[3.2.0]heptan-2-carboxylate, prepared by the procedure of Paragraph A, in 2 mL of methylene chloride at -40° under argon was added 24 mg of sulfuryl chloride. This solution was stirred for 15 min at -40° and then cooled to -70°. Triethylamine was added until the solution was basic to pH paper, and the solution was allowed to warm slowly to room temperature. The reaction mixture was partitioned between methylene chloride and brine, and the organic layer was dried over sodium sulfate and concentrated to dryness. The crude product was purified by preparative thin layer chromatography on three 20×10×0.05 cm silica gel plates, eluting with ether-petroleum ether (1:1), to afford after crystallization from ether 7.5 mg (23%) of methyl 3-(1-propylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylate: NMR (220 MHz; CDCl3): δ 1.05 (3 H, t, J=7), 1.68 (2H, m), 2.87 (2H, t, J=7), 2.9-3.0 (3H, m), 3.3-3.45 (2H, m), 3.78 (3H, s), and 4.51 (1H, m); HRMS: Calcd for C12H16O3S, 240.0819; found, 240.0807.

reactant | methyl 3-(1-propylthio)-7-oxobicyclo[3.2.0]heptan-2-carboxylate | 33 mg | C(CC)SC1C(C2C(CC2C1)=O)C(=O)OC | C12H18O3S
reactant | sulfuryl chloride | 24 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-(1-Propylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylate | C(CC)SC1=C(C2C(CC2C1)=O)C(=O)OC | C12H16O3S
